US06649636B1
4-(2-Furyl)-3-(carboxy)phenyl-1-ethanone
4-(2-furyl)-3-(methoxycarbonyl)phenyl-1-ethanone (3.85 g, 15.78 mmol) was heated to reflux in 20% methanolic potassium hydroxide (200 ml) for 15 minutes. Most of the methanol was removed under reduced pressure. The residue was dissolved in water and washed with methylene chloride. The aqueous solution was acidified to pH 1 with 12N hydrochloric acid and the product extracted with ethyl acetate. The organic solution was washed with water and brine, dried over sodium sulfate, filtered, and evaporated. The crude product was recrystallized from toluene to give the title compound.

reactant | 4-(2-furyl)-3-(methoxycarbonyl)phenyl-1-ethanone | 15.78 mmol, 3.85 g | O1C(=CC=C1)C1=C(C=C(C=C1)C(C)=O)C(=O)OC | C14H12O4
solvent | potassium hydroxide | 200 ml | [OH-].[K+]
product | 4-(2-Furyl)-3-(carboxy)phenyl-1-ethanone | O1C(=CC=C1)C1=C(C=C(C=C1)C(C)=O)C(=O)O | C13H10O4
